US05459138
EXAMPLE 30: 3-AMINO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture 0.25 g of 4-chloro-3-pyridylsulfonylguanidine (Preparation 14) and 0.25 g of potassium carbonate in 5 cm3 of dioxane/DMF (80/20) is heated at reflux for 24 hours.

reactant | 4-chloro-3-pyridylsulfonylguanidine | 0.25 g | ClC1=C(C=NC=C1)S(=O)(=O)NC(=N)N | C6H7ClN4O2S
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane DMF | 5 cm3 | O1CCOCC1.CN(C)C=O
product | 3-AMINO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C6H6N4O2S
